US08580824B2
A solution of 2-(1-ethyl-propyl)-6-methyl-isonicotinic acid isopropyl ester (1.54 g, 6.18 mmol) in 25% aq. HCl (60 mL) is stirred at 65° C. for 16 h. The solvent is removed in vacuo and the residue is dissolved in dioxane and concentrated again to give 2-(1-ethyl-propyl)-6-methyl-isonicotinic acid hydrochloride (1.70 g) as a brownish solid; LC-MS: tR=0.62 min, [M+1]+=208.52.

reactant | 2-(1-ethyl-propyl)-6-methyl-isonicotinic acid isopropyl ester | 6.18 mmol, 1.54 g | C(C)(C)OC(C1=CC(=NC(=C1)C)C(CC)CC)=O | C15H23NO2
reactant | HCl | 60 mL | Cl | ClH
product | 2-(1-ethyl-propyl)-6-methyl-isonicotinic acid hydrochloride | 1.70 g | Cl.C(C)C(CC)C=1C=C(C(=O)O)C=C(N1)C | InChI=1S/C12H17NO2.ClH/c1-4-9(5-2)11-7-10(12(14)15)6-8(3)13-11;/h6-7,9H,4-5H2,1-3H3,(H,14,15);1H
